US05972978
Example 15 2-Methanesulfinyl-5-naphthalen-2-yl-[1,3,4]thiadiazole
To a solution of 2-methylsulfanyl-5-naphthalen-2-yl-[1,3,4]thiadiazole (1.3 g, 5.03 mmol) in dichloromethane (50 ml) was added 50% moisten 3-chloro peroxybenzoic acid (1.9 g, 5.53 mmol) at 0° C. After stirred for 1 h at 0° C. the reaction was diluted with dichloromethane (50 ml) and quenched with addition of saturated aqueous sodium hydrogen carbonate (50 ml). The organic phase was separated and washed with. water (50 ml), dried (MgSO4), filtered and evaporated in vacuo. The residue (1.4 g) was purified by column chromatography on silicagel (400 ml) using a mixture of ethyl acetate and heptane (1:1) as eluent. This afforded after drying in vacuo at 50° C. 0.9 g (65%) of the title compound as a solid.

reactant | 2-methylsulfanyl-5-naphthalen-2-yl-[1,3,4]thiadiazole | 5.03 mmol, 1.3 g | CSC=1SC(=NN1)C1=CC2=CC=CC=C2C=C1 | C13H10N2S2
reactant | 3-chloro peroxybenzoic acid | 5.53 mmol, 1.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Methanesulfinyl-5-naphthalen-2-yl-[1,3,4]thiadiazole | CS(=O)C=1SC(=NN1)C1=CC2=CC=CC=C2C=C1 | C13H10N2OS2
